US05081237
To a solution of allyl (5R,6S)-3-[2-{(2S)-1-allyloxycarbonyl-4-fluoropyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.7 g), morpholine (694 μl), and triphenylphosphine (199 mg) in tetrahydrofuran (30 ml) and ethanol (10 ml) was added tetrakis(triphenylphosphine)palladium(0) (263 mg) at room temperature. After stirring for an hour, the precipitate was filtered, washed in turn with dichloromethane (3 times) and acetone (twice), and dried under reduced pressure to give (5R,6S)-3-[2-{(2S)-4-fluoropyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (248 mg).

reactant | allyl (5R,6S)-3-[2-{(2S)-1-allyloxycarbonyl-4-fluoropyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.7 g | C(C=C)OC(=O)N1[C@@H](CC(C1)F)C=C(C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C23H29FN2O6
reactant | morpholine | 694 μl | N1CCOCC1 | C4H9NO
reactant | triphenylphosphine | 199 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 263 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5R,6S)-3-[2-{(2S)-4-fluoropyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 248 mg | FC1C[C@H](NC1)C=C(C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)O | C16H21FN2O4
